US08309550B2
4-(4-(1-Propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)phenol (Compound 15)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one with 1-(4-hydroxyphenyl)guanidine hydrochloride. 1H-NMR (DMSO-d6) δ: 0.88 (t, 3H, J=7.2 Hz, CH3), 1.90 (t, 2H, J=7.6 Hz, CH2), 4.30 (t, 2H, J=6.8 Hz, CH2), 6.74 (m, 2H, Ph-H), 7.16 (d, 1H, J=5.6 Hz, Pyrimidin-H), 7.20 (t, 1H, J=4.8 Hz, Ar—H), 7.51 (m, 2H, Ph-H), 8.30 (d, 1H, J=5.6 Hz, Pyrimidin-H), 8.35 (m, 1H, Ar—H), 8.52 (s, 1H, Ar—H), 8.88 (d, 1H, J=7.6 Hz, Ar—H), 9.05 (s, 1H, NH), 9.11 (s, 1H, OH). MS (ESI+) m/z 346.1659 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=NC=CC=C21)CCC)C | C15H19N3O
reactant | 1-(4-hydroxyphenyl)guanidine hydrochloride | Cl.OC1=CC=C(C=C1)NC(=N)N
product | 4-(4-(1-Propyl-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)phenol | C(CC)N1C=C(C=2C1=NC=CC2)C2=NC(=NC=C2)NC2=CC=C(C=C2)O | C20H19N5O
